US05496501
Preparation of trans-4-(2-(3,4-difluorophenyl)ethyl)-1-isopentyl-1-silacyclohexane
65 ml of a Grignard's reagent (1.0M THF solution) prepared from 4-bromomethyl-1-isopentyl-1-silacyclohexane was dripped into a mixture of 10.4 g (50.2 mmol) of 3,4-difluorobenzylbromide, 200 mg of copper iodide (I), 400 mg of triethylphosphite and 100 ml of THF. After a conventional after treatment, they were separated by means of chromatography to obtain 11.7 g of the target product (yield 75%).

reactant | 4-bromomethyl-1-isopentyl-1-silacyclohexane | BrCC1CC[SiH](CC1)CCC(C)C | C11H23BrSi
reactant | 3,4-difluorobenzylbromide | 50.2 mmol, 10.4 g | FC=1C=C(CBr)C=CC1F | C7H5BrF2
reactant | triethylphosphite | 400 mg | C(C)OP(OCC)OCC | C6H15O3P
catalyst | copper iodide | 200 mg | [Cu](I)I
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 1.0M | C1CCOC1 | C4H8O
product | trans-4-(2-(3,4-difluorophenyl)ethyl)-1-isopentyl-1-silacyclohexane | 11.7 g, yield 75% | FC=1C=C(C=CC1F)CC[C@@H]1CC[Si@H](CC1)CCC(C)C | C18H28F2Si
